US04757070
5-Acetoxymethyl-4-methoxymethyl-1,2,3,4-tetrahydro-beta-carboline-1,3-dicarboxylic acid-3 ethyl ester
A solution of 3-(4-acetoxymethylindol-3-yl)-2-amino-4-methoxy-butyric acid ethyl ester (8.7 g) in ethyl acetate (40 ml) is slowly added drop by drop to a solution of glyoxylic acid monohydrate (2.4 g) in water (30 ml), cooled to 0° C., under argon protection and with stirring. The pH of the solution is adjusted to 4 by addition of potassium carbonate (about 1 g). Then the mixture is stirred for 2 hours, whereby it is allowed to warm to room temperature. Ethyl acetate and water phases are separated, the water phase is shaken out three times with ethyl acetate. The combined ethyl acetate extracts, for their part, are washed once with water, dried with sodium sulfate and evaporated. 9 g of the title compound remains.

reactant | 3-(4-acetoxymethylindol-3-yl)-2-amino-4-methoxy-butyric acid ethyl ester | 8.7 g | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)COC(C)=O)N)=O | C18H24N2O5
reactant | glyoxylic acid monohydrate | 2.4 g | O.C(C=O)(=O)O
reactant | potassium carbonate | about 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | 5-Acetoxymethyl-4-methoxymethyl-1,2,3,4-tetrahydro-beta-carboline-1,3-dicarboxylic acid-3 ethyl ester | C(C)OC(=O)C1NC(C=2NC3=CC=CC(=C3C2C1COC)COC(C)=O)C(=O)O | C20H24N2O7
